US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(3-ethoxy-3-oxopropyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
To a solution of tert-butyl (3S,5R)-3-[(1H-benzimidazol-2-ylcarbonyl) (2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (257 mg) and ethyl 3-bromopropanoate (181 mg) in N,N-dimethylacetamide (5 ml) was added cesium carbonate (489 mg), and the mixture was stirred at 70° C. for 15 hr. Ethyl 3-bromopropanoate (181 mg) was added to the reaction mixture, and the mixture was further stirred at 70° C. for 5 hr. The reaction mixture was cooled to room temperature, diluted with water, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (6:4) was concentrated under reduced pressure to give the object product (225 mg).

reactant | tert-butyl (3S,5R)-3-[(1H-benzimidazol-2-ylcarbonyl) (2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 257 mg | N1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C27H39N5O5
reactant | ethyl 3-bromopropanoate | 181 mg | BrCCC(=O)OCC | C5H9BrO2
reactant | cesium carbonate | 489 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Ethyl 3-bromopropanoate | 181 mg | BrCCC(=O)OCC | C5H9BrO2
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | Tert-butyl (3S,5R)-3-[{[1-(3-ethoxy-3-oxopropyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 225 mg | C(C)OC(CCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C)=O | C32H47N5O7
